US06310056B1
d) Sodium (1S,5R,6S)-2-(7-acetylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate
To a solution of 98.2 mg of 4-nitrobenzyl (1S,5R,6S)-2-(7-acetylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate in 5.8 ml of THF and 5.8 ml of 1/15 M sodium phosphate buffer (pH 6.6) was added 98 mg of 10% Pd-C. The reactor was purged with hydrogen, and the reaction mixture was stirred at room temperature for 2 hours. The catalyst was removed by filtration through Celite, and washed with water. The filtrate was adjusted to pH 6.5 with an aqueous sodium hydrogen carbonate solution, washed with ethyl acetate, and the aqueous layer was purified by column chromatography on DIAION HP-20 (20% methanol in water) to give 38.1 mg of the title compound.

reactant | 4-nitrobenzyl (1S,5R,6S)-2-(7-acetylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 98.2 mg | C(C)(=O)C=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C | C24H22N4O7S
reactant | sodium phosphate | 15 M, pH 6.6 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
solvent | THF | 5.8 ml | C1CCOC1 | C4H8O
catalyst | Pd-C | 98 mg | [Pd] | Pd
product | Sodium (1S,5R,6S)-2-(7-acetylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 38.1 mg | C(C)(=O)C=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)[O-])C([C@@H]1[C@@H](C)O)=O)C.[Na+] | InChI=1S/C17H17N3O5S.Na/c1-6-10(9-4-19-5-18-12(8(3)22)16(19)26-9)14(17(24)25)20-13(6)11(7(2)21)15(20)23;/h4-7,11,13,21H,1-3H3,(H,24,25);/q;+1/p-1/t6-,7+,11+,13+;/m0./s1
